US05654326
1-[2-(tert-Butoxycarbonylamino)-5-methoxyphenyl]-2-butanone (7.33 g, 0.025 mol) in 120 mL of CH2Cl2 and 20 mL of trifluoroacetic acid was stirred for 20 hours, washed with water, NaHCO3 solution and the product chromatographed on silica (eluted with 20% EtOAc/hexane) to give 2.54 g (58% yield) of 2-ethyl-5-methoxy-1H-indole as a white solid, mp 49°-50° C.

reactant | 1-[2-(tert-Butoxycarbonylamino)-5-methoxyphenyl]-2-butanone | 0.025 mol, 7.33 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)OC)CC(CC)=O | C16H23NO4
solvent | CH2Cl2 | 120 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-ethyl-5-methoxy-1H-indole | 2.54 g, 58% yield | C(C)C=1NC2=CC=C(C=C2C1)OC | C11H13NO
